datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[S:11]=[C:12]([S:13][H:15])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:15])[H:6].[S:11]=[C:12]([S:13])[H:14],35.1456
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3](=[O:4])[H:10])([H:5])[H:6].[O:11][O:12]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]=[O:4])([H:5])[H:6].[H:10][O:11][O:12],170.2888
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16]([H:22])([H:23])[H:24])[C:17](=[C:18]([H:26])[H:27])[H:25])[H:21])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:15]([C:14](=[C:13]([H:19])[H:20])[H:21])([C:16]([H:22])([H:23])[H:24])[C:17](=[C:18]([H:26])[H:27])[H:25])[H:7])([H:5])[H:6],78.5755
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[C:19](=[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])[C:23]([H:30])([H:31])[H:32])[H:26])([H:24])[H:25]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[C:21]([C:20](=[C:19]([H:24])[H:25])[H:26])([C:22]([H:27])([H:28])[H:29])[C:23]([H:30])([H:31])[H:32])([H:9])[H:10],61.965
[C:0](=[C:1]=[C:2]=[C:3]([H:6])[H:7])([H:4])[H:5].[H:8]>>[C:0](=[C:1]([C:2]=[C:3]([H:6])[H:7])[H:8])([H:4])[H:5],16.681608
[C:0]([O:1][O:2][H:6])([H:3])([H:4])[H:5].[O:7]>>[C:0]([O:1][O:2])([H:3])([H:4])[H:5].[H:6][O:7],19.874
[C:0](=[C:1]=[C:2]([H:4])[H:5])[H:3].[H:6]>>[C:0](=[C:1]=[C:2][H:5])[H:3].[H:4][H:6],4.184
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([S:9][H:15])[C:10](=[S:11])[H:16])([H:12])([H:13])[H:14]>>[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[H:6][C:8]([C:7]([H:12])([H:13])[H:14])([S:9][H:15])[C:10](=[S:11])[H:16],183.008
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([C:6]([C:7]([C:8](=[C:9]([C:10](=[C:11]([H:27])[H:28])[H:26])[H:25])[H:24])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]1([C:9]([C:10](=[C:11]([H:27])[H:28])[H:26])[H:25])[H:24])[H:12],51.4214
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[C:18]([C:19]([C:20]([H:30])([H:31])[H:32])[c:21]1[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]1[H:37])([H:27])([H:28])[H:29]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])([H:11])[C:19]([C:18]([H:27])([H:28])[H:29])([C:20]([H:30])([H:31])[H:32])[c:21]1[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]1[H:37])[H:10])([H:8])[H:9],22.4681
[O:0]([S:1][H:3])[H:2].[O:4][H:5]>>[H:3][O:4][H:5].[O:0]([S:1])[H:2],0.0
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14](=[C:15]([C:16]([C:17]([H:23])([H:24])[H:25])[C:18](=[C:19]([H:27])[H:28])[H:26])[H:22])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([C:5]([H:11])([H:12])[H:13])[C:16]([C:15](=[C:14]([H:20])[H:21])[H:22])([C:17]([H:23])([H:24])[H:25])[C:18](=[C:19]([H:27])[H:28])[H:26])[H:7])[H:6],64.5591
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[C:20](=[C:21]([C:22]([C:23]([H:28])([H:29])[H:30])[H:27])[H:26])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])([C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[C:22]([C:21](=[C:20]([H:24])[H:25])[H:26])([C:23]([H:28])([H:29])[H:30])[H:27])[H:10])([H:8])[H:9],56.6095
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[C:14](=[C:15]([H:17])[H:18])[H:16]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])[H:8])([H:4])([H:5])[H:6].[H:7][C:14](=[C:15]([H:17])[H:18])[H:16],70.2912
[C:0](=[C:1]1[C:2]([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]([H:12])=[C:6]1[H:13])([H:7])[H:8].[H:14]>>[C:0](=[C:1]1[C:2]([H:9])([H:14])[C:3]([H:10])=[C:4]([H:11])[C:5]([H:12])=[C:6]1[H:13])([H:7])[H:8],-1.824224
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[H:9])[H:8])([H:5])([H:6])[H:7].[O:16][O:17]>>[C:0]([C:1](=[C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[H:15])[H:8])([H:5])([H:6])[H:7].[H:9][O:16][O:17],39.003248
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]=[C:8]([C:9]([H:18])([H:19])[H:20])[c:10]1[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]1[H:25])([H:16])[H:17]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7]=[C:6]([H:16])[H:17])([C:9]([H:18])([H:19])[H:20])[c:10]1[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]1[H:25])[H:3],58.6597
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:12]([H:13])([H:14])[H:15],26.2337
